US05998439
Synthesis of 4-(1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine
Combine 1-(t-butoxycarbonyl)-4-(1-(2-fur-2-ylmethoxy-ethyl)-1H-benzimidazole-2-carbonyl)piperidine (1.0 mmol) and dioxane (10 mL). Cool in an ice bath. Slowly add a solution of hydrochloric aicd in dioxane (0.25 mL, 4 M, 1.0 mmol). After 45 minutes, dilute the reaction mixture with dichloromethane and extract with saturated aqueous sodium bicarbonate solution. Separate the organic layer and extract with brine. Dry the organic layer over Na2SO4, filter, and evaporate invacuo to give the title compound.

reactant | 1-(t-butoxycarbonyl)-4-(1-(2-fur-2-ylmethoxy-ethyl)-1H-benzimidazole-2-carbonyl)piperidine | 1.0 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)C1=NC2=C(N1CCOCC=1OC=CC1)C=CC=C2 | C25H31N3O5
reactant | dioxane | 10 mL | O1CCOCC1 | C4H8O2
reactant | hydrochloric aicd | Cl | ClH
reactant | dioxane | 1.0 mmol, 4 M, 0.25 mL | O1CCOCC1 | C4H8O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(1-(2-(fur-2-ylmethoxy)ethyl)-1H-benzimidazole-2-carbonyl)piperidine | O1C(=CC=C1)COCCN1C(=NC2=C1C=CC=C2)C(=O)C2CCNCC2 | C20H23N3O3
